US07285558B2
2-(1-benzothien-3-ylmethyl)-7-isobutyl-5-methyl-3-(3-methylthien-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 1-benzothiophene-3-carbaldehyde, followed by 3-methylthiophene-2-carbaldehyde. Mass: 464.85 (M+H).

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 1-benzothiophene-3-carbaldehyde | S1C=C(C2=C1C=CC=C2)C=O | C9H6OS
reactant | 3-methylthiophene-2-carbaldehyde | CC1=C(SC=C1)C=O | C6H6OS
product | 2-(1-benzothien-3-ylmethyl)-7-isobutyl-5-methyl-3-(3-methylthien-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | S1C=C(C2=C1C=CC=C2)CN2N=C1N(C(N(C(C1=C2C=2SC=CC2C)=O)C)=O)CC(C)C | C24H24N4O2S2
